Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex / dicloxacillin / propoxyphene
 
Attending: ___.
 
Chief Complaint:
weakness, gait instability
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ female with history notable for ___ disease
and recent fall (___) with prolonged down-time c/b
rhabdomyolysis and pressure ulcers presenting to ED for 
worsening
weakness, imbalance, and intermittent confusion x2-3 days.

Upon arrival to floor patient is agitated about being in the
hospital and is only willing to provide limited history of
present illness.  Reports being brought to the ED against her
wishes today for reasons that she is unsure of.

Spoke with patient's daughter on the phone who describes waxing
and waning mental status, weakness, and gait instability over
past several weeks. Most recently requiring brief admission at
the ___, discharged ___. Reviewed records that there were 
no
metabolic derangements, infection, or intracranial pathology.
However, workup was notable for fatigable weakness raising
concern for possible myasthenia, however did not undergo EMG
testing and laboratory testing remains pending. She 
spontaneously
improved and was discharged home with plan for home rehab.

Since that time daughter again notes intermittent confusion and
disorientation, worsening stability, and possible decline in
vision or seeing objects that are not there.  Believes that her
mother has mostly been able to take her medications regularly,
but suspects if she has any decline would rapidly deteriorate 
and
be unable to care for herself.

Patient herself denies any active issues other than frustration
about being in the hospital.  Specifically denies any headache,
confusion, chest pain, palpitations, shortness of breath,
abdominal pain, nausea, vomiting, constipation, or diarrhea.

She describes her falls as losing her balance and feeling her
legs fall out from beneath her.  She says that she always
remembers the entire incident and has not hit her head.

ED course notable for: 97.8 70 164/91 16 98% RA. Labs showed 
CBC,
chem, LFTs, lactate, UTox all unremarkable. UA with few bacteria
without pyuria. CT head and CXR with no acute pathology.
Received: IVF, ropinirole, carbidopa-levodopa-entacapone,
Seroquel, amantadine. Consulted neurology who recommended
outpatient titration of ___ meds.
 
Past Medical History:
___ disease
glaucoma
spondylosis
spinal stenosis
vertebral column fracture
basal cell carcinoma of skin
TAH/BSO
fracture of metatarsal bone of left foot
fracture of metatarsal bone, closed
conjunctivitis
 
Social History:
___
Family History:
Unable to obtain.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals: 98.2 148/77 69 16 97 RA
General: Elderly appearing woman in no acute distress. 
Cachectic. AAOx3. 
Neuro: Speech normal. CNII-XII notable for bilateral eyelid
droop, bilateral nystagmus in both eyes, resting tongue tremor,
diminished strength with shoulder shrug. Strength in upper and
lower extremities is ___ proximally and distally, though equal
bilaterally. Sensation grossly intact. Finger-to-nose with
significant intention tremor.
HEENT: Normocephalic, atraumatic.  Moist mucous membranes.
Card: ___ holosystolic murmur most prominent over right upper
sternal border.  Regular rate and rhythm.
Pulmonary: Lung fields clear to auscultation bilaterally. 
Breathing comfortably on room air.
Abdomen: Soft, nontender, nondistended.
Extremities: Bandaged, healing wounds on dependent areas of the
left shoulder and left knee.  Otherwise extremities are warm,
well-perfused, nonedematous.

DISCHARGE PHYSICAL EXAM:
========================
VS:98.1 AdultAxillary 106 / 54 R Sitting 59 18 98 Ra 
General: Elderly appearing woman in no acute distress. Somewhat
slurred speech
Cachectic. AAOx1 (person). 
HEENT: Normocephalic, atraumatic.  Moist mucous membranes. Right
corner of mouth with red and yellow crust 
Card: ___ holosystolic murmur most prominent over right upper
sternal border.  Regular rate and rhythm.
Pulmonary: Lung fields clear to auscultation bilaterally. 
Breathing comfortably on room air.
Abdomen: Soft, nontender, nondistended.
Extremities: warm,well-perfused, nonedematous.
Neuro: Speech normal. CNII-XII notable for bilateral eyelid
droop, bilateral nystagmus in both eyes on right gaze. Strength
in upper and lower extremities is ___ proximally and distally,
though equal bilaterally. Sensation grossly intact.
Finger-to-nose with significant intention tremor.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 08:43PM BLOOD WBC-5.8 RBC-4.11 Hgb-12.6 Hct-38.2 MCV-93 
MCH-30.7 MCHC-33.0 RDW-13.0 RDWSD-43.8 Plt ___
___ 08:43PM BLOOD Neuts-70.9 Lymphs-17.6* Monos-9.6 
Eos-0.5* Baso-0.9 Im ___ AbsNeut-4.08 AbsLymp-1.01* 
AbsMono-0.55 AbsEos-0.03* AbsBaso-0.05
___ 08:43PM BLOOD Glucose-106* UreaN-13 Creat-0.6 Na-143 
K-4.1 Cl-105 HCO3-25 AnGap-13
___ 08:43PM BLOOD ALT-<5 AST-12 AlkPhos-89 TotBili-0.5
___ 08:43PM BLOOD Albumin-4.2 Calcium-9.3 Phos-2.9 Mg-2.0
___ 08:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:56PM BLOOD Lactate-1.3

PERTINENT LABS:
==============
___ 07:05AM BLOOD TSH-2.8

DISCHARGE LABS:
==============
___ 07:30AM BLOOD WBC-4.3 RBC-4.34 Hgb-13.3 Hct-40.4 MCV-93 
MCH-30.6 MCHC-32.9 RDW-12.9 RDWSD-43.8 Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-86 UreaN-16 Creat-0.6 Na-142 
K-3.9 Cl-103 HCO3-26 AnGap-13
___ 07:30AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.1

MICRO:
=====
__________________________________________________________
___ 9:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 8:46 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING/STUDIES:
================
___ Imaging CHEST (PA & LAT)
No acute cardiopulmonary abnormality.

___ Imaging CT HEAD W/O CONTRAST
Limited exam due to motion.  No clear evidence for acute 
intracranial
abnormalities or fracture.

___ Imaging MR HEAD W/O CONTRAST
No acute infarcts are identified.

 
Brief Hospital Course:
___ female with history notable for ___ disease 
and recent fall with prolonged down-time c/b rhabdomyolysis and 
pressure ulcers admitted for worsening weakness, imbalance, and 
intermittent confusion in setting of overall functional decline 
over several weeks. The patient was admitted for optimization of 
___ medications and arrangement for long-term dispo 
planning as well as collaboration of inpatient and outpatient 
neurology teams.

ACUTE ISSUES:
=============
#weakness:
Most likely related to progression of underlying neurological 
disease and deconditioning due to increasing frequency of 
hospital stays. Most recently discharged ___ from ___ where 
inpatient workup was negative for any definitive cause. There 
was concern for possible myasthenia component given fatigable 
weakness on exam, OSH lab workup is pending. However, neurology 
did not think pt has MG. TSH was normal. ___ recommend rehab.

___ disease:
Long-standing, follows with Dr. ___. ED consulted neurology 
who recommend dopaminergic medication titration as outpatient 
over extended period of time. Suspected that patient was not 
taking her medications accurately which would account for recent 
decompensation with falls, confusion, weakness. Would also 
account for rapid resolution during recent inpatient stay as her 
medication administration was carefully monitored. Neurology 
spoke with her outpatient neurologist re: PD meds and baseline 
to determine if MRI necessary. We continued Carbidopa-Levodopa, 
ENTAcapone,and Amantadine 100 mg PO/NG TID. We decreased 
rOPINIRole 2 mg PO/NG TID to 1 mg TID due to the patient's 
hallucinations. We also obtained an MRI which was negative for 
an acute process.

#encephalopathy: likely hospital delirium and ___ 
dementia.
On admission patient is AAOx3, but with inconsistent 
orientation. Daughter noted that patient's baseline was worse 
than it was on admission due to increasing frequency of episodes 
where she mixed up memories or fused two events, saw things that 
were not there, or did not recognizing the people around her. 
Most likely related ___ illness with dementia component. 
No evidence of infection as UA with contaminant, blood cx with 
NG, Chest Xray with no acute process, and no fever/leukocytosis. 
No acute intracranial pathology as CT head on ___ was 
negative. We placed the patient on delerium precautions and 
decreased her ropinirole to 1 mg PO TID as per neurology. Brain 
MRI showed no acute events. Patient discharged with inconsistent 
delirium.

#recurrent falls
Most likely due to ___ disease. Toxic-metabolic and 
infectious workup negative as above. No evidence of new injury 
on exam. CT head, MRI head, and CXR negative. Ucx with 
contaminant and blood cx with NG.

#Disposition:
Patient is currently living at home in ___ by herself with
only occasional assistance during the week, largely with
housecleaning. Given the advanced state of her illness and 
likely
inability to complete ADLs, she will likely need eventual 
extended care facility. Will require ongoing discussion with her
daughters. However, was discharged to short term rehab.

CHRONIC ISSUES:
===============

#open wounds
Persistent open wounds on left elbow and left knee following 
fall
in ___ with prolonged down-time. No evidence of infection. 
Wound care was consulted and helped to attend to her wounds.

#CODE: Full (confirmed)
#CONTACT: ___ (daughter) ___ ___ (daughter)
___

Transitional Issues:
==================
[ ] consider outpatient EMG workup for myasthenia ___
[ ] ensure close neurology follow up, which has been scheduled 
for ___
[ ] ropinirole decreased from 2mg TID to 1mg TID
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aleve ___ (naproxen-diphenhydramine) 220-25 mg oral DAILY:PRN 
pain/stiffness 
2. Amantadine 100 mg PO TID 
3. carbidopa-levodopa-entacapone 12.5-50-200 mg oral QPM 
4. carbidopa-levodopa-entacapone ___ mg oral TID 
5. Vitamin D ___ UNIT PO DAILY 
6. Collagenase Ointment 1 Appl TP DAILY 
7. Vitamin D ___ UNIT PO 1X/WEEK (SA) 
8. rOPINIRole 2 mg PO TID 
9. Silver Nitrate Applicator Dose is Unknown  TP Frequency is 
Unknown 
10. Cyanocobalamin Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 250 mcg PO DAILY  
2.  rOPINIRole 1 mg PO TID  
3.  Silver Nitrate Applicator 1 STCK TP ONCE Duration: 1 Dose  
4.  Aleve ___ (naproxen-diphenhydramine) 220-25 mg oral DAILY:PRN 
pain/stiffness  
5.  Amantadine 100 mg PO TID  
6.  carbidopa-levodopa-entacapone 12.5-50-200 mg oral QPM  
7.  carbidopa-levodopa-entacapone ___ mg oral TID  
8.  Collagenase Ointment 1 Appl TP DAILY  
9.  Vitamin D ___ UNIT PO DAILY  
10.  Vitamin D ___ UNIT PO 1X/WEEK (SA)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
-weakness
-___ disease
-confusion
-falls

Secondary Diagnosis:
-glaucoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

WHY WAS I ADMITTED?
-You were admitted because you were feeling weak and your 
walking was unsteady.

WHAT WAS DONE WHILE I WAS HERE?
-We tested you for infections in your urine, blood, and lungs, 
but all showed no signs of infection. We also completed a head 
CT scan and a head MRI scan, both tests that take a picture of 
your head/brain, and it showed that you were not bleeding.  
-We had the neurologists come see you, and they talked to your 
outpatient neurologist about your medications.

WHAT SHOULD I DO NOW?
-You should continue to take your medications
-You should go to your doctor's appointments as scheduled below
-You should call your doctor if you are feeling more weak than 
usual

We wish you the best!
-Your ___ Care Team
 
Followup Instructions:
___